US04983755
Preparation of the starting material, 4-chlorophenyl tert.-butyl ketone N-methylhydrazone
29.5 g ofg 4-chlorophenyl tert.-butyl ketone (0.15 mol) in 750 ml ethanol was heated under reflux with an excess (118 ml) of methl hydrazine and 3 ml of concentrated sulphuric acid for 4.5 hours. It was concentrated almost to dryness and the added to water. After extraction with methylene chloride and then drying and concentrating the extract in vacuo, there was obtained an oil which eventually crystallised. The resulting crude product used immediately.

reactant | 4-chlorophenyl tert.-butyl ketone | 0.15 mol, 29.5 g | C(C)(C)(C)C(=O)C1=CC=C(C=C1)Cl | C11H13ClO
reactant | methl hydrazine | 118 ml | CNN | CH6N2
reactant | sulphuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 750 ml | C(C)O | C2H6O
product | 4-chlorophenyl tert.-butyl ketone N-methylhydrazone | CNN=C(C1=CC=C(C=C1)Cl)C(C)(C)C | C12H17ClN2
